US08497274B2
(vii) Production of 2-chloro-3-(1-cyanocyclopropyl)-N-[5-({7-cyano-2-[(cyclopropylcarbonyl)amino]-1,3-benzothiazol-6-yl}oxy)-2-fluorophenyl]benzamide
To a solution of 2-chloro-3-(1-cyanocyclopropyl)benzoic acid (60 mg, 0.272 mmol) in tetrahydrofuran (1.5 mL) were added oxalyl chloride (29 μL, 0.340 mmol) and N,N-dimethylformamide (15 μL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in N,N-dimethylacetamide (2 mL). N-[6-(3-Amino-4-fluorophenoxy)-7-cyano-1,3-benzothiazol-2-yl]cyclopropanecarboxamide (84 mg, 0.227 mmol) was added to the solution, and the mixture was stirred at room temperature for 30 min. The reaction mixture was diluted with ethyl acetate (50 mL), washed successively with 5% aqueous sodium hydrogen carbonate solution (25 mL) and saturated brine (25 mL), and dried over anhydrous sodium sulfate. Insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate/n-hexane=30/70→480/20), and the obtained solution was concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/n-hexane to give the title compound (92 mg, 59%) as a white powder.

reactant | 2-chloro-3-(1-cyanocyclopropyl)benzoic acid | 0.272 mmol, 60 mg | ClC1=C(C(=O)O)C=CC=C1C1(CC1)C#N | C11H8ClNO2
reactant | oxalyl chloride | 0.340 mmol, 29 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 15 μL | CN(C=O)C | C3H7NO
reactant | N-[6-(3-Amino-4-fluorophenoxy)-7-cyano-1,3-benzothiazol-2-yl]cyclopropanecarboxamide | 0.227 mmol, 84 mg | NC=1C=C(OC2=C(C3=C(N=C(S3)NC(=O)C3CC3)C=C2)C#N)C=CC1F | C18H13FN4O2S
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 2-chloro-3-(1-cyanocyclopropyl)-N-[5-({7-cyano-2-[(cyclopropylcarbonyl)amino]-1,3-benzothiazol-6-yl}oxy)-2-fluorophenyl]benzamide | 92 mg, 59% | ClC1=C(C(=O)NC2=C(C=CC(=C2)OC2=C(C3=C(N=C(S3)NC(=O)C3CC3)C=C2)C#N)F)C=CC=C1C1(CC1)C#N | C29H19ClFN5O3S
